US06949542B2
[2-{3-[3-(2-Methyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-5-(tetrahydro-pyran-2-yloxymethyl)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from [2-amino-5-(tetrahydro-pyran-2-yloxymethyl)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester (Example J38) (293 mg, 0.75 mmol) and 3-[3-(2-methyl-pyridin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K12) (234 mg, 0.75 mmol) according to the general procedure M. Obtained as an amorphous yellow substance (168 mg, 36%).

reactant | [2-amino-5-(tetrahydro-pyran-2-yloxymethyl)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | 0.75 mmol, 293 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)COC1OCCCC1)C(F)(F)F)N)=O | C18H25F3N2O4
reactant | 3-[3-(2-methyl-pyridin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 0.75 mmol, 234 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC=C1)C)=O | C19H21NO3
product | [2-{3-[3-(2-Methyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-5-(tetrahydro-pyran-2-yloxymethyl)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)COC1OCCCC1)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC=C1)C)=O)=O | C33H36F3N3O6
